US08026261B2
A mixture of 3-benzyloxy-2-methyl-1H-pyridin-4-one (10.0 g, 46.4 mmol), potassium carbonate (19 g, 138 mmol), and CF3CH(OH)OCH3 (35 mL, 0.35 mol) in a 500 mL 3-necked round bottom flask equipped with a mechanical stirrer was heated to reflux for 6 days. The progress of the reaction was monitored by HPLC Method 3 (Example 24). Analysis of the HPLC data indicated that there was about 42% conversion. The reaction was stopped, and dichloromethane and deionized water were added. The organic fraction was collected, washed with brine, dried over Na2SO4, filtered and concentrated to dryness. Purification of the residue by column chromatography on silica (methanol/dichloromethane 2/100 to 5/100 v:v) afforded 3-benzyloxy-2-methyl-5-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one as a solid product (3.5 g, 24% yield, HPLC Method 3 (Example 24), RT=14.3 min). 1H NMR (DMSO-d6) 8 ppm: 11.68 (br s, 1H), 7.58 (s, 1H), 7.35, (m, 5H), 5.34 (q, J=7.3 Hz, 1H), 5.06 (m, 2H), 2.08 (s, 3H); MS-ESI (m/z) 313.7 [M+1]+, 206.1, 91.1 (100%).

reactant | 3-benzyloxy-2-methyl-1H-pyridin-4-one | 46.4 mmol, 10.0 g | C(C1=CC=CC=C1)OC1=C(NC=CC1=O)C | C13H13NO2
reactant | potassium carbonate | 138 mmol, 19 g | C([O-])([O-])=O.[K+].[K+]
reactant | CF3CH(OH)OCH3 | 0.35 mol, 35 mL | C(F)(F)(F)C(O)OC | C3H5F3O2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-benzyloxy-2-methyl-5-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 24% yield | C(C1=CC=CC=C1)OC1=C(NC=C(C1=O)C(C(F)(F)F)O)C | C15H14F3NO3
